US04994493
A mixture of 17.6 g of 3-phenylpropanoyl chloride in 40 ml of ethyl acetate is added dropwise to a solution of 15.7 g of methyl anthranilate and 21 g of triethylamine in 60 ml of methyl acetate. The mixture is stirred at room temperature for 24 hours, water is added, and the organic phase is separated off and, after the solvent has been evaporated off, methyl 2-(3-phenylpropanoylamino)benzoate is obtained as an orange-colored oil.

reactant | 3-phenylpropanoyl chloride | 17.6 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | methyl anthranilate | 15.7 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | triethylamine | 21 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | methyl acetate | 60 ml | C(C)(=O)OC | C3H6O2
product | methyl 2-(3-phenylpropanoylamino)benzoate | C1(=CC=CC=C1)CCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C17H17NO3
